US05196425
A mixture of 3.2 parts of 3-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 27 parts of acetic anhydride and 15.7 parts of acetic acid was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated and the residue was poured into 100 parts of water. After basifying with NH4OH, the product was extracted with dichloromethane. The extract was dried, filtered and evaporated and the residue was crystallized from 2-propanol, yielding 3.3 parts (95.3%) of 3-[2-[4-(1-acetyl-6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 210.3° C. (compound 46). All other compounds listed in tables 1 to 3 were obtained following methods of preparation analogous to those described in examples 2 to 6, as is indicated in the column headed by Ex. No.

reactant | 3-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2C)C | C24H26FN5O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-[4-(1-acetyl-6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 95.3% | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)C1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2C)C | C26H28FN5O2
